US05244889
Trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecane-10-carboxamide (0.16 g, 0.56 mmol) is dissolved in ethanol (5.0 mL). An aqueous solution of 1N sodium hydroxide (0.60 mL, 0.60 mmol) is added, and the reaction is stirred for 1 hour. The reaction is acidified with 1N hydrochloric acid to a pH of about 3, and the solvent is evaporated. The residue is partitioned between ethyl acetate and water, and the aqueous layer is extracted several times with ethyl acetate. The combined organic layers are dried (Na2SO4), and the solvent is evaporated to give trans 3-mercaptomethyl-2-oxo-1-azacyclodecane-10-carboxamide, m.p. 185°-192° C.

reactant | Trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecane-10-carboxamide | 0.56 mmol, 0.16 g | C(C)(=O)SC[C@@H]1C(N[C@H](CCCCCC1)C(=O)N)=O | C13H22N2O3S
reactant | sodium hydroxide | 0.60 mmol, 1N, 0.60 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | trans 3-mercaptomethyl-2-oxo-1-azacyclodecane-10-carboxamide | SC[C@@H]1C(N[C@H](CCCCCC1)C(=O)N)=O | C11H20N2O2S
